US07612114B2
Synthesized from 2-(4-benzyloxyphenyl)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide according to an analogous synthetic method to Example 337, [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (1.3 g) was used according to an analogous synthetic method to Example 36 to provide [2-(4-benzyloxyphenyl)ethyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (1.2 g). The total amount of this compound was used according to an analogous synthetic method to Example 22 to provide the title compound (920 mg).

reactant | 2-(4-benzyloxyphenyl)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H33NO4
reactant | [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 1.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H35NO3
product | [2-(4-benzyloxyphenyl)ethyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 1.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC | C35H39NO3
